US07544637B2
1.2: 2-Hydroxy-6-propylsulfanylbenzonitrile
30 g (0.14 mol) of 2-methyl-1-nitro-3-propylsulfanylbenzene, 18.9 g (0.18 mol) of n-butyl nitrite were dissolved in 120 ml of dimethylformamide and cooled to (−20)° C. Then a solution of potassium t-butoxide in 120 ml of DMF is added dropwise over the course of 25 min. After the reaction mixture had been stirred at (−25)° C. for one hour, it was stirred into a mixture of ice and 150 ml of concentrated hydrochloric acid. The mixture was warmed to room temperature, and the resulting solid was filtered off with suction and washed several times with water and once with cyclohexane. The solid was purified by stirring with a little amount of methylene chloride. Yield: 12.4 g (46% of theory) of the desired product. 1H NMR (in CDCl3): δ=1.05 ppm (t, 3H, aliph. Me), 1.7 ppm (m, 2H, aliph. CH2), 3.0 ppm (t, 2H, S CH2), 6.8 ppm (d, 1H, arom. H), 6.9 ppm (d, 1H, arom. H), 7.35 ppm (m, 1H, arom. H).

reactant | 2-methyl-1-nitro-3-propylsulfanylbenzene | 0.14 mol, 30 g | CC1=C(C=CC=C1SCCC)[N+](=O)[O-] | C10H13NO2S
reactant | n-butyl nitrite | 0.18 mol, 18.9 g | N(=O)OCCCC | C4H9NO2
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 150 ml | Cl | ClH
reactant | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
reactant | DMF | 120 ml | CN(C)C=O | C3H7NO
product | 2-Hydroxy-6-propylsulfanylbenzonitrile | OC1=C(C#N)C(=CC=C1)SCCC | C10H11NOS
